US05990136
To a flame dried flask containing (R)-4,5-Dihydro[3-[4-(4-pyridinyl)phenyl]-5-(hydroxymethyl)]isoxazole (440 mg, 1.73 mmol) in methylene chloride (20 mL) at 0° C. under an inert atmosphere is added triethylamine (0.36 mL, 2.60 mmol) and methanesulfonyl chloride (0.14 mL, 1.82 mmol). The reaction is slowly warmed to ambient temperature, stirred 3 hours, and quenched with water (25 mL). The organic phase is separated, washed with saturated NaHCO3 (25 mL) and saline (25 mL), dried over sodium sulfate and concentrated in vacuo to give crude (R)-4,5-dihydro[3-[4-(4-pyridinyl)phenyl]-5-[[(methylsulfonyl)oxy]methyl]isoxazole. The crude (R)-4,5-dihydro[3-[4-(4-pyridinyl)phenyl]-5-[[(methylsulfonyl)oxy]-methyl]isoxazole (580 mg, 1.73 mmol) is dissolved in tetrahydrofuran (4 mL), isopropanol (4 mL), and concentrated ammonium hydroxide (4 mL) in a thick wall resealable vessel and heated to 100-110° C. for 15 hours. The reaction is cooled to ambient temperature, diluted with ethyl acetate (50 mL), washed with saline (20 mL), dried over sodium sulfate and concentrated in vacuo to give crude (R)-4,5-dihydro[3-[4-(4-pyridinyl)phenyl]-5-(aminomethyl)isoxazole. The crude (R)-4,5-dihydro[3-[4-(4-pyridinyl)phenyl]-5-(aminomethyl)isoxazole (320 mg, 1.57 mmol) is dissolved in methylene chloride (15 mL) and cooled to 0° C. under an inert atmosphere. Pyridine (0.31 mL, 3.78 mmol) and acetic anhydride (0.15 mL, 1.57 mmol) are added to the cooled solution and stirred 20 hours at ambient temperature. The reaction is concentrated in vacuo, diluted with methylene chloride (50 mL), washed with saline (25 mL), dried over sodium sulfate, concentrated in vacuo and chromatographed on silica gel (230-400 mesh, 200 mL), eluting with chloroform/methanol (97/3). The appropriate fractions are combined (Rf =0.14, TLC, chloroform/methanol, 95/5) and concentrated in vacuo to give the title compound, mp 244-245° C.

reactant | 3-[4-(4-pyridinyl)phenyl]-5-[[(methylsulfonyl)oxy]-methyl]isoxazole | 1.73 mmol, 580 mg | N1=CC=C(C=C1)C1=CC=C(C=C1)C1=NOC(=C1)COS(=O)(=O)C | C16H14N2O4S
reactant | isopropanol | 4 mL | C(C)(C)O | C3H8O
reactant | ammonium hydroxide | 4 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-[4-(4-pyridinyl)phenyl]-5-(aminomethyl)isoxazole | N1=CC=C(C=C1)C1=CC=C(C=C1)C1=NOC(=C1)CN | C15H13N3O
